* File: /home/eng/s/sxv240035/cad/gf65/tutorial/TRI_INV/HSPICE/Tri_INV.pex.sp.pex
* Created: Thu Dec  5 19:54:53 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_TRI_INV%NET9 1 2 6 7 9 11 24 25
r40 21 22 25
r41 18 21 0.818016
r42 18 24 30
r43 15 18 0.388606
r44 15 24 10
r45 11 15 1.53694
r46 11 25 10
r47 7 22 1.10132
r48 5 9 36.8926
r49 5 6 82.9058
r50 2 7 4.3283
r51 1 6 3.46412
r52 1 2 108.731
.ends

.subckt PM_TRI_INV%GND! 1 6 12 18
c47 6 0 4.87084e-19
r48 6 18 10
r49 4 12 0.0199415
r50 4 6 0.988031
r51 1 12 30
.ends

.subckt PM_TRI_INV%NET15 3 11 14 15 16 17 19 20 22
r70 18 19 2.7183
r71 16 18 0.0479332
r72 16 17 0.681032
r73 14 19 0.0479332
r74 14 15 0.880741
r75 11 22 10
r76 9 17 0.0479332
r77 9 11 0.647029
r78 7 20 30
r79 3 7 0.388606
r80 3 20 10
r81 1 15 0.0479332
r82 1 7 0.145727
.ends

.subckt PM_TRI_INV%OUT 3 6 8 14 17 20 22 23
c46 8 0 1.62156e-19
r47 17 20 1.7
r48 15 20 0.0495473
r49 14 20 0.105895
r50 11 22 30
r51 8 11 0.388606
r52 8 22 10
r53 6 15 0.0769726
r54 6 8 0.563479
r55 3 23 10
r56 1 14 0.0769726
r57 1 3 0.682003
.ends

.subckt PM_TRI_INV%VDD! 1 6 15 20
r45 10 20 30
r46 6 10 0.388606
r47 6 20 10
r48 4 15 0.0185406
r49 4 10 1.40675
r50 1 15 30
.ends

.subckt PM_TRI_INV%EN 2 4 6 9 10 12 16 18 20 22 30 31
c61 31 0 3.27941e-19
c62 30 0 1.75401e-19
c63 22 0 2.51233e-19
c64 18 0 1.54476e-19
c65 16 0 1.54476e-19
r66 30 31 25
r67 27 30 4.18701
r68 22 31 1.7
r69 12 20 26.6446
r70 11 12 27.7719
r71 9 11 3.46412
r72 9 10 89.2595
r73 6 18 36.8926
r74 5 27 3.83544
r75 5 6 35.2529
r76 4 27 3.83544
r77 3 16 26.6446
r78 3 4 53.8017
r79 2 16 26.6446
r80 1 10 3.46412
r81 1 2 27.7719
.ends

.subckt PM_TRI_INV%IN 4 6 10 12 14 22 23
c57 14 0 1.62156e-19
c58 12 0 1.54476e-19
c59 10 0 1.54476e-19
c60 6 0 2.67492e-19
r61 22 23 25
r62 19 22 4.18701
r63 14 23 1.7
r64 6 12 36.8926
r65 5 19 3.83544
r66 5 6 35.2529
r67 4 19 3.83544
r68 3 10 26.6446
r69 3 4 53.8017
.ends

