* File: /home/eng/s/sxv240035/cad/gf65/tutorial/XOR2/HSPICE/XOR2.pex.sp.pex
* Created: Thu Dec  5 19:57:34 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%GND! 1 6 9 13 16 20 26 28 32 36 37 39
c75 6 0 1.08665e-19
r76 20 39 10
r77 18 32 0.0199415
r78 18 20 0.988031
r79 17 28 0.0256162
r80 16 32 0.0256162
r81 16 17 1.18913
r82 13 37 10
r83 11 28 0.0199415
r84 11 13 0.988031
r85 10 26 0.0256162
r86 9 28 0.0256162
r87 9 10 0.911281
r88 6 36 10
r89 4 26 0.0199415
r90 4 6 0.988031
r91 1 28 10
.ends

.subckt PM_XOR2%NET24 4 6 10 12 15 21 22 25 28 29 33 35 36 40
c91 28 0 1.19521e-19
c92 22 0 1.08665e-19
c93 21 0 1.96306e-19
c94 12 0 2.91769e-19
c95 10 0 2.91769e-19
r96 34 40 4.5413
r97 33 34 25
r98 31 33 0.20499
r99 30 33 0.42941
r100 28 30 0.0479332
r101 28 29 0.53239
r102 25 36 10
r103 23 29 0.0479332
r104 23 25 0.339059
r105 21 31 0.0479332
r106 21 22 1.57472
r107 18 35 30
r108 15 18 0.388606
r109 15 35 10
r110 13 22 0.0479332
r111 13 15 0.388606
r112 6 12 36.8926
r113 5 40 3.83544
r114 5 6 35.2529
r115 4 40 3.83544
r116 3 10 26.6446
r117 3 4 53.8017
.ends

.subckt PM_XOR2%OUT 3 6 7 12 18 19 21 23 26 28 30
c60 12 0 6.8218e-20
r61 23 26 1.7
r62 20 26 0.0495473
r63 20 21 0.0773462
r64 18 26 0.105895
r65 18 19 0.0773462
r66 15 28 30
r67 12 15 0.388606
r68 12 21 0.563479
r69 12 28 10
r70 8 19 0.255508
r71 6 8 0.0479332
r72 6 7 0.319628
r73 3 30 10
r74 1 7 0.0479332
r75 1 3 0.339059
.ends

.subckt PM_XOR2%VDD! 1 6 15 20
r53 10 20 30
r54 6 10 0.388606
r55 6 20 10
r56 4 15 0.0185406
r57 4 10 1.40675
r58 1 15 30
.ends

.subckt PM_XOR2%NET14 3 9 10 13 19 21
r29 17 21 30
r30 13 17 0.388606
r31 13 21 10
r32 11 17 0.145727
r33 9 11 0.0479332
r34 9 10 1.05614
r35 7 19 30
r36 3 7 0.388606
r37 3 19 10
r38 1 10 0.0479332
r39 1 7 0.145727
.ends

.subckt PM_XOR2%B 2 4 6 8 9 10 11 12 14 16 18 20 22 24 26 28 31 37
c81 31 0 1.96306e-19
c82 26 0 1.54476e-19
c83 20 0 1.94277e-19
c84 6 0 2.70174e-19
r85 34 37 4.21922
r86 31 34 25
r87 28 31 1.7
r88 17 26 36.8926
r89 17 18 109.14
r90 16 26 36.8926
r91 15 24 26.6446
r92 15 16 108.936
r93 14 24 26.6446
r94 13 14 46.7306
r95 11 18 3.46412
r96 11 12 200.859
r97 9 13 3.46412
r98 9 10 200.859
r99 8 12 3.46412
r100 7 22 36.8926
r101 7 8 109.14
r102 6 22 36.8926
r103 5 37 3.83544
r104 5 6 35.2529
r105 4 37 3.83544
r106 3 20 26.6446
r107 3 4 53.8017
r108 2 20 26.6446
r109 1 10 3.46412
r110 1 2 46.7306
.ends

.subckt PM_XOR2%A 2 4 6 8 9 10 11 12 14 16 18 20 22 24 26 29 31 37
c95 31 0 1.60843e-19
c96 29 0 2.97069e-19
c97 26 0 3.08952e-19
c98 24 0 1.54476e-19
c99 22 0 1.37293e-19
c100 20 0 3.3157e-19
r101 34 37 4.21922
r102 29 34 25
r103 29 31 1.7
r104 17 26 36.8926
r105 17 18 90.2843
r106 16 26 36.8926
r107 15 24 26.6446
r108 15 16 108.936
r109 14 24 26.6446
r110 13 14 27.4645
r111 11 18 3.46412
r112 11 12 102.172
r113 9 13 3.46412
r114 9 10 102.172
r115 8 12 3.46412
r116 7 22 36.8926
r117 7 8 90.2843
r118 6 22 36.8926
r119 5 37 3.83544
r120 5 6 35.2529
r121 4 37 3.83544
r122 3 20 26.6446
r123 3 4 53.8017
r124 2 20 26.6446
r125 1 10 3.46412
r126 1 2 27.4645
.ends

